US08026257B2
7-Methyl-5-(((4-phenylpiperidin-4-yl)methoxy)methyl)-1H-indazole.
tert-Butyl 4-(((7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (170 mg, 0.300 mmol) was dissolved in trifluoroacetic acid (50% in dichloromethane, 5 mL) and stirred at room temperature for 2 h. The reaction was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted with 2M ammonia in methanol and concentrated to give 95 mg (94%) as an amorphous solid. 1H-NMR (CDCl3, 500 MHz) δ 7.98 (s, 1H), 7.31-7.40 (m, 4H), 7.29 (s, 1H), 7.24 (m, 1H), 6.88 (s, 1H), 4.42 (s, 2H), 3.45 (s, 1H), 3.41 (s, 2H), 2.95 (m, 2H), 2.77 (m, 2H), 2.46 (s, 3H), 2.17 (m, 2H), 1.97 (m, 2H); 13C NMR (126 MHz, CDCl3) δ ppm 144.3, 140.3, 134.8, 131.5, 128.4, 127.4, 126.8, 126.1, 122.8, 120.0, 117.0, 79.2, 73.6, 50.4, 42.6, 41.9, 33.3, 17.1. Mass spec.: 336.31 (MH)+. Accurate mass spec.: m/z 336.2090 [MH]+, Δ=4.2 ppm.

reactant | tert-Butyl 4-(((7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.300 mmol, 170 mg | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C32H47N3O4Si
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 7-Methyl-5-(((4-phenylpiperidin-4-yl)methoxy)methyl)-1H-indazole | CC=1C=C(C=C2C=NNC12)COCC1(CCNCC1)C1=CC=CC=C1 | C21H25N3O
